### PR TITLE
define TwoSphere recursion

### PR DESCRIPTION
**Pull request by jdoughertyii**
I changed the type of S2_ind to match Chapter 6 of the HoTT Book, and changed S2_ind_beta_loop to S2_ind_beta_surf. I added some lemmas used in the definition of S2_rec_beta_surf to PathGroupoids.v.

I also constructed an equivalence S2 <~> Sphere 2 ([here](https://github.com/jdoughertyii/HoTT/blob/spheres_with_S2/theories/hit/Spheres.v#L78)), but it's not included in this pull request because it takes a full minute and a half to compile.  I don't know if that's something that would be worth trying to improve and submit.

### CODE REVIEW

**Comment by mikeshulman** [comment]
Nice!  I think it would be definitely worth trying to improve the other equivalence and include it in the library.

File: theories/Basics/PathGroupoids.v [hunk 1]
```diff
@@ -410,6 +410,13 @@ Definition concat_Ap {A B : Type} {f g : A -> B} (p : forall x, f x = g x) {x y
     | idpath => concat_1p _ @ ((concat_p1 _) ^)
   end.
 
+Definition ap_homotopic {A B : Type} {x y : A} {p : x = y}
```
Comment (mikeshulman) [inline theories/Basics/PathGroupoids.v]: This is a rearrangement of `concat_Ap`; does it need another name?

File: theories/Basics/PathGroupoids.v [hunk 2]
```diff
@@ -863,8 +870,47 @@ Definition inverse2 {A : Type} {x y : A} {p q : x = y} (h : p = q)
...
+: inverse2 (s @@ t) 
+  = 
+  (inv_pp p q) @ ((inverse2 t) @@ (inverse2 s)) @ (inv_pp p' q')^.
+Proof.
+    by path_induction.
+Defined.
+
 (** Some higher coherences *)
 
+Lemma ap_concat {A B : Type} {x' y' z' : B}
```
Comment (mikeshulman) [inline theories/Basics/PathGroupoids.v]: I feel like there should be a better name for this, but I don't know what.

File: theories/Basics/PathGroupoids.v [hunk 3]
```diff
@@ -879,6 +925,19 @@ Proof.
   destruct p; reflexivity.
 Defined.
 
+Lemma concatppp_pp_1 {A : Type} {x y z : A}
```
Comment (mikeshulman) [inline theories/Basics/PathGroupoids.v]: What led you to the name for this lemma?

File: theories/Basics/PathGroupoids.v [hunk 4]
```diff
@@ -891,6 +950,63 @@ Proof.
   destruct r, p; reflexivity.
 Defined.
 
+Definition concat2_V2p {A : Type} {x y : A} {p q : x = y} (r : p = q)
+: (inverse2 r @@ r) = concat_Vp p @ (concat_Vp q)^.
+Proof.
+  by path_induction.
+Defined.
+
+Definition concat2_p2p_p2 {A : Type} {x y z w : A}
```
Comment (mikeshulman) [inline theories/Basics/PathGroupoids.v]: Actually I don't understand the names of most of these.  Where are you inserting `2`s and where not?

File: theories/Basics/PathGroupoids.v [hunk 5]
```diff
@@ -891,6 +950,63 @@ Proof.
...
+           {p p' p'' : x = y} {q q' : y = z} (s : p = p') (t : p' = p'')
+           (r : q = q')
+: (s @ t) @@ r
+  =
+  (s @@ r) @ (t @@ 1).
+Proof.
+    by path_induction.
+Defined.
+
+Definition concat2_pp_p_r {A : Type} {x y z : A}
```
Comment (mikeshulman) [inline theories/Basics/PathGroupoids.v]: What does `_r` mean?

File: theories/hit/TwoSphere.v [hunk 6]
```diff
@@ -17,30 +17,55 @@ Private Inductive S2 : Type0 :=
...
-...
->>
-*)
+  apply (cancel2L (transport2_const surf b)).
+  apply (cancelL (apD_const (S2_rec P b s) (idpath base))).
+  apply (cancelR _ _ (concat_pp_p _ (transport_const _ b) _)).
+  apply (cancelR _ _ (whiskerL (transport2 _ surf b) (apD_const _ _)^)).
+  refine ((apD02_const (S2_rec P b s) surf)^ @ _).
+  refine ((S2_ind_beta_surf _ _ _) @ _).
+  hott_simpl.
```
Comment (mikeshulman) [inline theories/hit/TwoSphere.v]: I think if we set `Arguments concat_pp_p : simpl nomatch.` (which we should do anyway), then this line and the next can be replaced by `cbn. hott_simpl. apply moveL_Mp.` making the proof a bit faster.

File: theories/hit/TwoSphere.v [hunk 7]
```diff
@@ -17,30 +17,55 @@ Private Inductive S2 : Type0 :=
...
+  apply (cancelR _ _ (concat_pp_p _ (transport_const _ b) _)).
+  apply (cancelR _ _ (whiskerL (transport2 _ surf b) (apD_const _ _)^)).
+  refine ((apD02_const (S2_rec P b s) surf)^ @ _).
+  refine ((S2_ind_beta_surf _ _ _) @ _).
+  hott_simpl. 
+  apply moveL_pM. hott_simpl. apply moveR_pV, moveL_Mp.
+  path_via (concat_pp_p (transport2 (fun _ : S2 => P) surf b) 
+     (transport_const 1 b) 1).
+  refine (_ @ (concatppp_pp_1 _ _)^). hott_simpl.
+  refine (_ @ (apD concat_p1 (transport2_const _ _))). simpl.
```
Comment (mikeshulman) [inline theories/hit/TwoSphere.v]: My previous suggestion seems to require passing the arguments explicitly here `(transport2_const surf b)`

File: theories/Basics/PathGroupoids.v (hunk 1 above)
Comment (jdoughertyii) [inline theories/Basics/PathGroupoids.v]: Perhaps not.  `concat_Ap` seems inconvenient to me, because when I want to apply it I have `ap f p` and want to replace it with something.  But applying `concat_pV` and then `concat_Ap` would also work.

File: theories/hit/TwoSphere.v [hunk 8]
```diff
@@ -17,30 +17,55 @@ Private Inductive S2 : Type0 :=
...
+  refine (@dpath_path_FlFr _ _ (fun p : b = b => p @ 1) (fun p : b = b => p) _ 
+                           _ _ _ _ _).
+  refine ((concat_1p _) @ _). hott_simpl. apply moveL_pM.
+  refine ((concat_pV _) @ _). apply moveL_pM. 
+  refine ((concat_1p _) @ _). apply moveL_Mp.
+  refine ((inv_V _)^ @ _). apply inverse2.
+  refine ((inv_pp _ _) @ _). apply moveR_pV.
+  refine ((inv_V _) @ _). apply moveL_Mp.
+  path_via ((transport2_const surf b @@ s)^ @ (1 @@ s)).
+  f_ap. refine (_ @ (concat2_1p s)^). refine (whiskerL_1p_1 _)^.
```
Comment (mikeshulman) [inline theories/hit/TwoSphere.v]: This line should probably be in `{ ... }` like the later ones.

File: theories/Basics/PathGroupoids.v (hunk 1 above)
Comment (mikeshulman) [inline theories/Basics/PathGroupoids.v]: Did you actually use this lemma anywhere in this PR?

Comment (jdoughertyii) [inline theories/Basics/PathGroupoids.v]: Hmm, no.  It looks like the version of `PathGroupoids.v` in this PR has all the stuff from the branch with the S2 <~> Sphere 2 equivalence.  I must have gotten them mixed up in the rebase shuffle.

File: theories/Basics/PathGroupoids.v (hunk 3 above)
Comment (jdoughertyii) [inline theories/Basics/PathGroupoids.v]: Since it's about `concat_pp_p`, I prefixed it with `concatppp_*` (I thought I saw this underscore-removal elsewhere, but now I can only find examples like `ap_pp_concat_pV` that don't remove them).  The `_pp_1` is supposed to indicate that it's `concat_pp_p` and that the first two arguments are arbitrary paths and the third is `idpath`.  Maybe `concat_pp_p_pp_1` or `concat_pp_p_pp1` would be better.

This, `apD02_const`, `cancel2L`, and `concat2_V` are the only additions to `PathGroupoids.v` needed in this PR, so if we settle on a name for this I'll update the PR to remove all of the other additions.

Comment (mikeshulman) [inline theories/Basics/PathGroupoids.v]: My vote would probably be for `concat_pp_p_pp1`, although at this level we do seem to be stretching our naming conventions to the limit.

Comment (mikeshulman) [inline theories/Basics/PathGroupoids.v]: One might suggest `concat_pp_p__pp1` to visually separate the name of the lemma from its arguments, but I don't know if that would be more ugly than it's worth.

**Comment by jdoughertyii** [comment]
I cut the knot on the naming thing.  I found a shorter definition for `S2_rec_beta_surf` that's also faster (bringing the compile time of `S1_rec_beta_surf` from 4.12s to 0.81s) and only adds `apD02_const` and `cancel2*` to `PathGroupoids.v`

**Comment by jdoughertyii** [comment]
Shoot. Didn't mean to close it.

**Comment by mikeshulman** [comment]
Sorry for the delay.  LGTM!  APOE?
